US07884124B2
Under a N2 atmosphere, 4-(phenylethynyl)thiophene-2-carbaldehyde (386 mg, 1.8 mmol) was dissolved EtOAc (6 mL), and palladium on carbon (Pd/C) (44 mg) was added. The flask was evacuated and flushed with H2 (3×). The reaction stirred at rt overnight with a balloon of H2. The mixture was filtered through a plug of Celite® and the filtrate was concentrated to give 4-phenethylthiophene-2-carbaldehyde (373 mg, 95%). 1H NMR (400 MHz, CDCl3) δ (ppm): 9.87 (d, 1H), 7.56 (d, 1H), 7.33 (m, 1H), 7.29 (m, 2H), 7.23 (m, 1H), 7.16 (m, 2H), 2.97 (m, 4H).

reactant | 4-(phenylethynyl)thiophene-2-carbaldehyde | 1.8 mmol, 386 mg | C1(=CC=CC=C1)C#CC=1C=C(SC1)C=O | C13H8OS
catalyst | palladium on carbon | 44 mg | [Pd] | Pd
solvent | EtOAc | 6 mL | CCOC(=O)C | C4H8O2
product | 4-phenethylthiophene-2-carbaldehyde | 373 mg, 95% | C(CC1=CC=CC=C1)C=1C=C(SC1)C=O | C13H12OS
